US05185333
To a solution of 1.8 g of 6-chloro-4-methyl-3,4-dihydro-2H-1,4-benzothiazine-8-carboxylic acid in 30 ml of ethyl acetate was added 1.05 g of triethylamine, and then added 0.891 g of pivaloyl chloride dropwise with stirring at -10° C. to -5° C. followed by stirring the mixture at the same temperature for 30 minutes. To the resultant mixture was added 1.39 g of 2-aminomethyl-1-butylpyrrolidine at --10° C. to -5° C. and then stirred at room temperature for an hour. After the reaction solution was washed with water, dried over anhydrous sodium sulfate and concentrated, the residue thus obtained was crystallized from diisopropyl ether. The crystals were collected by filtration and recrystallized from diisopropyl ether to give N-[(1-butyl-2-pyrrolidinyl)methyl]-6-chloro-4-methyl-3,4-dihydro-2H-1,4-benzothiazine-8-carboxamide as colorless crystals. Melting point: 108°-109° C.

reactant | 6-chloro-4-methyl-3,4-dihydro-2H-1,4-benzothiazine-8-carboxylic acid | 1.8 g | ClC=1C=C(C2=C(N(CCS2)C)C1)C(=O)O | C10H10ClNO2S
reactant | triethylamine | 1.05 g | C(C)N(CC)CC | C6H15N
reactant | pivaloyl chloride | 0.891 g | C(C(C)(C)C)(=O)Cl | C5H9ClO
reactant | 2-aminomethyl-1-butylpyrrolidine | 1.39 g | NCC1N(CCC1)CCCC | C9H20N2
solvent | ethyl acetate | 30 ml | C(C)(=O)OCC | C4H8O2
product | N-[(1-butyl-2-pyrrolidinyl)methyl]-6-chloro-4-methyl-3,4-dihydro-2H-1,4-benzothiazine-8-carboxamide | C(CCC)N1C(CCC1)CNC(=O)C1=CC(=CC=2N(CCSC21)C)Cl | C19H28ClN3OS
